US04897401
A mixture of 1.2 parts of 1-chloro-2-ethoxyethane, 3.1 parts of 3-[(2-methyl-3-furanyl)methyl]-N-(4-piperidinyl)-3H-imidazo[4,5-b]pyridin-2-amine, 1.6 parts of sodium carbonate and 45 parts of N,N-dimethylformamide was stirred overnight at 70° C. The reaction mixture was poured into 50 parts of water. Petroleum ether was added and after stirring, the crystallized product was filtered off, washed with water and petroleum ether and stirred in 1,1'-oxybisethane. The product was filtered off and dried at room temperature, yielding 1.6 parts (38.1%) of N-[1-(2-ethoxyethyl)-4-piperidinyl]-3-[(2-methyl-3-furanyl)methyl]-3H-imidazo-[4,5-b]pyridin-2-amine dihydrate; mp. 84.5° C. (compound 32).

reactant | 1-chloro-2-ethoxyethane | ClCCOCC | C4H9ClO
reactant | 3-[(2-methyl-3-furanyl)methyl]-N-(4-piperidinyl)-3H-imidazo[4,5-b]pyridin-2-amine | CC=1OC=CC1CN1C(=NC=2C1=NC=CC2)NC2CCNCC2 | C17H21N5O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-[1-(2-ethoxyethyl)-4-piperidinyl]-3-[(2-methyl-3-furanyl)methyl]-3H-imidazo-[4,5-b]pyridin-2-amine dihydrate | 38.1% | O.O.C(C)OCCN1CCC(CC1)NC1=NC=2C(=NC=CC2)N1CC1=C(OC=C1)C | InChI=1S/C21H29N5O2.2H2O/c1-3-27-14-12-25-10-6-18(7-11-25)23-21-24-19-5-4-9-22-20(19)26(21)15-17-8-13-28-16(17)2;;/h4-5,8-9,13,18H,3,6-7,10-12,14-15H2,1-2H3,(H,23,24);2*1H2
